US09079902B2
Intermediate D: 3-Bromo-N-(2,4-Dimethoxybenzyl)-1-Methyl-N-(1,2,4-Thiadiazol-5-yl)-1H-Indole-6-Sulfonamide
A 1 L round bottom flask was charged with N-(2,4-dimethoxybenzyl)-1,2,4-thiadiazol-5-amine (10.36 g, 41.2 mmol) and THF (190 ml) to give a clear, pale-yellow solution. The flask was cooled to −78° C. in a dry ice and acetone bath, then lithium bis(trimethylsilyl)amide (1M in THF) (43.1 ml, 43.1 mmol) was added dropwise. The cooling bath was removed for 10 min, which led to the formation of a clear, orange-colored solution. The flask was placed back in the cooling bath for 5 min, then a solution of 3-bromo-1-methyl-1H-indole-6-sulfonyl chloride (11.56 g, 37.5 mmol) in minimal THF was added dropwise via cannula. Following the addition, the cooling bath was removed and the reaction was stirred for two hours. The reaction mixture was diluted with a saturated aq. ammonium chloride solution and water, and extracted with EtOAc (2×). The aq. layer was filtered to give some desired product as a pink solid. The filtrate was again extracted with EtOAc, and the organic extracts were combined. The combined solution was dried over sodium sulfate, filtered, and concentrated. The residue was triturated with EtOAc, and the resulting solid was collected via filtration to give a second crop of desired product. The filtrate was absorbed onto silica gel, and the impregnated silica gel was eluted onto a silica gel column (0 to 100% EtOAc/Heptane). The material thus obtained was still impure, so it was further purified by chromatography on silica gel (0 to 10% EtOAc/DCM) to give a third crop of desired product. The three crops were combined to afford 3-bromo-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide (16.47 g, 31.5 mmol, 84% yield) as a light pink solid. 1H NMR (400 MHz, DMSO-d6) δ=8.34 (s, 1 H), 8.05 (dd, J=0.6, 1.6 Hz, 1 H), 7.95 (s, 1 H), 7.66-7.52 (m, 2 H), 6.95 (d, J=8.4 Hz, 1 H), 6.47-6.26 (m, 2 H), 5.12 (s, 2 H), 3.88 (s, 3 H), 3.69 (s, 3 H), 3.66 (s, 3 H). m/z (ESI) 545.0 (M+H)+.

reactant | N-(2,4-dimethoxybenzyl)-1,2,4-thiadiazol-5-amine | 41.2 mmol, 10.36 g | COC1=C(CNC2=NC=NS2)C=CC(=C1)OC | C11H13N3O2S
reactant | dry ice | C(=O)=O | CO2
reactant | lithium bis(trimethylsilyl)amide | 43.1 mmol, 1M, 43.1 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-bromo-1-methyl-1H-indole-6-sulfonyl chloride | 37.5 mmol, 11.56 g | BrC1=CN(C2=CC(=CC=C12)S(=O)(=O)Cl)C | C9H7BrClNO2S
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 190 ml | C1CCOC1 | C4H8O
solvent | acetone | CC(=O)C | C3H6O
product | 3-Bromo-N-(2,4-Dimethoxybenzyl)-1-Methyl-N-(1,2,4-Thiadiazol-5-yl)-1H-Indole-6-Sulfonamide | BrC1=CN(C2=CC(=CC=C12)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC)C | C20H19BrN4O4S2
